US07683017B2
Step 1—Preparation of N,N-di-n-hexyl-N-(4-nitrophenyl)amine
To a flask equipped with a magnetic stirrer, reflux condenser, and a nitrogen inlet was added di-n-hexylamine (14.1 grams, 0.3 moles), 1-fluoro-4-nitrobenzene (14.1 grams, 0.1 moles) and anhydrous methyl sulfoxide (40 ml). The contents of the flask were heated at 100° C. for 20 hours; cooled to room temperature; partitioned between diethyl ether (300 ml) and water (100 ml); filtered. The ether layer was dried over anhydrous magnesium sulfate, filtered and concentrated in vacuo to yield a yellow oil containing excess dihexylamine. The yellow oil was purified by passing through a short column of silica gel and elating with hexane (300 ml) to yield 25.0 grams of product as a yellow oil. 1H NMR (CDCl3) δ 8.1(d, 2H), 6.5(d, 2H), 3.3 5(t, 4H), 1.6(pent, 4H), 1.2-1.4(m, 12H), 0.9(t, 6H).

reactant | di-n-hexylamine | 0.3 moles, 14.1 grams | C(CCCCC)NCCCCCC | C12H27N
reactant | 1-fluoro-4-nitrobenzene | 0.1 moles, 14.1 grams | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
solvent | methyl sulfoxide | 40 ml | CS(=O)C | C2H6OS
product | N,N-di-n-hexyl-N-(4-nitrophenyl)amine | 25.0 grams | C(CCCCC)N(C1=CC=C(C=C1)[N+](=O)[O-])CCCCCC | C18H30N2O2
